2162-05-30 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cholesterol panel:  Total 180, TG 96, HDL 73, LDLcalc 88; maintained
   on simvastatin 40mg PO daily
   - TTE:  Near akinesis of distal half of the anterior septum and
   anterior wall; apex is aneurysmal, akinetic; LVEF 30-35%; 1+ MR
   - A1c pending
   - Does not need Panorex
   - Medication reconciliation - Simvastatin 20 mg PO DAILY, Vitamin D 800
   UNIT PO DAILY, Calcium Carbonate 500 mg PO TID; medications that were
   not changed include diltiazem 240mg PO daily ([**2-15**] bradycardia),
   estradiol 1mg PO daily
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.19 mcg/Kg/min
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-30**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 56 (56 - 73) bpm
   BP: 137/56(76) {89/40(59) - 150/114(121)} mmHg
   RR: 22 (16 - 60) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,458 mL
                                                                    277 mL
   PO:
                                                                    640 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    818 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                  1,000 mL
   Urine:
                                                                  2,560 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,102 mL
                                                                   -723 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple
   CARDIAC: RR, Distant S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Post-catch no bruits,
   palpable pulses, CDI, no oozing.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   224 K/uL
   11.7 g/dL
   102 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   140 mEq/L
   33.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2162-5-29**]  03:43 AM
                             [**2162-5-30**]  04:10 AM
   WBC
   11.3
   10.6
   Hct
   38.2
   33.8
   Plt
   287
   224
   Cr
   0.8
   0.8
   TropT
   0.43
   Glucose
   118
   102
   Other labs: PT / PTT / INR:12.5/ 36.7/1.1, CK / CKMB /
   Troponin-T:94//0.43, Differential-Neuts:77.8 %, Lymph:17.1 %, Mono:3.9
   %, Eos:0.8 %, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   64F h/o hyperlipidemia presents with severe left main disease, now
   being medically managed, awaiting CABG on Monday, with pre-op w/u in
   progress.
   .
   # CAD - has severe left main disease. Not a candidate for PCI, needs
   CABG.
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] to perform CABG Mon, f/u recs
   - medically maximize therapy with ASA, BB, statin, IV heparin
   - hold plavix pending CABG (loaded [**2162-5-29**])
   - NPO p MN, U/A, CXR, T+S
   - con't Simvastatin 40 mg PO DAILY
   - If chest pain resumes, Ingerillin, then call cath lab for balloon and
   notify CT.
   .
   # Chest Pain: Currently chest pain free.
   - con't Nitroglycerin 0.05-0.2 mcg/kg/min IV DRIP TITRATE TO chest pain
   free
   - if redevelops CP, page cath lab for ?balloon, start Integrillin STAT.
   .
   # PUMP: No current signs of CHF; continue home regimen of lasix.
   - Con't Furosemide 40 mg PO DAILY
   - Con't Diltiazem 30 mg PO QID
   .
   # RHYTHM: Con't to monitor on tele.
   .
   # h/o GERD: Con't Pantoprazole 40 mg PO Q24H
   .
   # h/o Anxiety: Lorazepam 0.5 mg PO Q8H:PRN insomnia   (increased from
   home QHS dosing.
   .
   # Depression: Stable on Fluoxetine 40 mg PO DAY.
   .
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   - on IV heparin
   -Pain management with morphine, nitro
   -Bowel regimen with colace, senna
   .
   # CODE: Full. Verified by me ([**Doctor Last Name 3101**]) on day of admission.
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-5-28**] 11:22 PM
   20 Gauge - [**2162-5-28**] 11:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   CCU Attending
   I have reviewed the progress note by Dr. [**Last Name (STitle) 3237**] on [**2162-5-30**].  I
   agree with the events over the past 24 hours.  I was present during the
   pertinent portions of the physical examination and agree with the
   findings noted above.  The assessment and plans that is documented is
   consistent with our strategy over the next 24 hours.   Mrs. [**Known lastname 6431**]
   remains painfree this morning and has no specific complaints.  Her EKG
   is unchanged.  She is currently stable on aspirin, IV heparin, and IV
   nitroglycerin along with her lopressor and diltiazem. In the event that
   the patient develops more chest pain, we will begin eptifibatide and
   place an intra aortic balloon pump if conservative measures do not
   work.   The plans were discussed with the patients and with the cardiac
   surgical team.  All questions were addressed.  [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD
   [**Telephone/Fax (1) 6129**]

2162-05-31 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased simvitatin to 40 mg po daily (home dose)
   - No carotid u/s until Monday am. On for Csurg at 9:30 am.
   - Remained CP free. SBP up to 150s at 1900. Increased Nitro gtt.
   - NPO after MN
   - Anesthesia requested we obtain OSH records in regards to past history
   of esophageal strictures. Pt reports 3 esophageal strictures, last one
   1 yr ago. Called [**Hospital3 519**] [**Telephone/Fax (1) 6510**] but nobody at Medical
   records.
   - 1 run NSVT x6 beats overnight. CP free. otherwise VSS.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.37 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-31**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 62 (54 - 78) bpm
   BP: 121/41(62) {99/30(37) - 152/83(87)} mmHg
   RR: 27 (15 - 59) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,006 mL
                                                                     55 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    346 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  2,395 mL
                                                                    830 mL
   Urine:
                                                                  2,395 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,389 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple
   CARDIAC: RR, Distant S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Post-catch no bruits,
   palpable pulses, CDI, no oozing.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   226 K/uL
   11.8 g/dL
   107 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   140 mEq/L
   34.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2162-5-29**]  03:43 AM
                             [**2162-5-30**]  04:10 AM
                             [**2162-5-31**]  05:24 AM
   WBC
   11.3
   10.6
   10.2
   Hct
   38.2
   33.8
   34.1
   Plt
   287
   224
   226
   Cr
   0.8
   0.8
   0.8
   TropT
   0.43
   Glucose
   118
   102
   107
   Other labs: PT / PTT / INR:13.2/48.8/1.1, CK / CKMB /
   Troponin-T:94//0.43, ALT / AST:/18, Differential-Neuts:77.8 %,
   Lymph:17.1 %, Mono:3.9 %, Eos:0.8 %, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   64F h/o hyperlipidemia presents with severe left main disease, now
   being medically managed, awaiting CABG today.
   .
   # CAD
C. Cath revealed severe left main disease. Not a candidate for
   PCI, and will plan for CABG Monday. Currently CP free on nitro and
   heparin. Preop eval underway. Xray, Panorex, type and screen and UA
   done.
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] to perform CABG Today
   - medically maximize therapy with ASA, BB, statin, IV heparin
   - hold plavix pending CABG (loaded [**2162-5-29**])
   - NPO
   - Awaiting Carotid U/s for pre-op w/u
   - Hold lasix today per Surgery
   - Increase to Simvastatin 40 mg PO DAILY (home dose)
   - con't Nitroglycerin 0.05-0.2 mcg/kg/min IV DRIP TITRATE TO chest pain
   free
   .
   # PUMP: Euvolemic on exam. No current signs of CHF; continue home
   regimen of lasix.
   - Holding  Furosemide 40 mg PO DAILY  TODAY
   - Con't Diltiazem 30 mg PO QID. Home dose is 240 mg po daily but BP and
   HR appear well controlled on
 home dose
   .
   # RHYTHM: Con't to monitor on tele.
   .
   # h/o GERD: Con't Pantoprazole 40 mg PO Q24H
   .
   # h/o Anxiety: Lorazepam 0.5 mg PO Q8H:PRN insomnia   (increased from
   home QHS dosing)
   .
   # Depression: Stable on Fluoxetine 40 mg PO DAY.
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   - on IV heparin
   -Pain management with morphine, nitro
   -Bowel regimen with colace, senna
   .
   # CODE: Full. Verified by Intern on day of admission.
   .
   # DISPO: To surgery today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-5-28**] 11:22 PM
   20 Gauge - [**2162-5-28**] 11:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: